US05712300
Preparation of α-Methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic Acid
TFA (10.0 mL) is added to a solution of tert-butyl α-methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (780 mg, 2.09 mmol) and CH2Cl2 (10 mL) at 0° C. The solution is stirred for 2.5 hours at 0° C. and 1.5 hours at room temperature. After concentration, the residue is partitioned between EtOAc and water. The organic layer is extracted several times with 10% NaOH, the combined basic layers acidified (4N HCl), and the acidic layers extracted several times with CH2Cl2. The CH2Cl2 layers are dried (MgSO4), filtered, and concentrated to provide 79 mg (12%) of the title compound as a white solid (mp 94°-95° C.).

reactant | TFA | 10.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl α-methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 2.09 mmol, 780 mg | CC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C23H35NO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | α-Methyl-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic Acid | 79 mg, 12% | CC(C(=O)O)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C19H27NO3
